US07112582B2
To a suspension of DL-tetrahydro-1,3-thiazine-4-carboxylic acid hydrochloride (48.6 g, 0.26 mol) in 666 mL of AcOH was added to the solution of 27.4 g (0.40 mol) of NaNO2 in 333 mL of water over 16 min at room temperature and stirred for 3 h. The solution was concentrated under reduced pressure. Acetone (300 mL) was added to the residue and the precipitate was filtered off. The filtrate was concentrated under reduced pressure to dryness and crude 3-nitroso[1,3]thiazinane-4-carboxylic acid was obtained as brown amorphous solid.

reactant | tetrahydro-1,3-thiazine-4-carboxylic acid hydrochloride | 0.26 mol, 48.6 g | Cl.S1CNC(CC1)C(=O)O
reactant | NaNO2 | 0.40 mol, 27.4 g | N(=O)[O-].[Na+]
solvent | AcOH | 666 mL | CC(=O)O | C2H4O2
solvent | water | 333 mL | O | H2O
product | 3-nitroso[1,3]thiazinane-4-carboxylic acid | N(=O)N1CSCCC1C(=O)O | C5H8N2O3S
